US04472406
A solution of 10.2 g (44.9 mmole) of 6-fluoro-5-(imidazol-1-yl)-2-methylquinoline, 16.7 g (180 mmole) of pyridine:diborane complex (that commercially available from Aldrich) and 200 ml of glacial acetic was stirred for about 22 hours at about 20° C. The solution was evaporated to reduce its volume, then 100 ml of 10% hydrochloric acid was added in small portions. The solution was heated on a steam bath for about one hour, then cooled with an ice bath and basified (pH 9 to 10) with 10% aqueous sodium hydroxide. The solid was separated by filtration, washed with water, and dissolved in ethyl acetate and dried. Recrystallization from aqueous ethanol provided 6-fluoro-5-(imidazol-1-yl)-1,2,3,4-tetrahydro-2-methylquinoline, m.p. 162°-164° C.

reactant | 6-fluoro-5-(imidazol-1-yl)-2-methylquinoline | 44.9 mmole, 10.2 g | FC=1C(=C2C=CC(=NC2=CC1)C)N1C=NC=C1 | C13H10FN3
reactant | pyridine | 180 mmole, 16.7 g | N1=CC=CC=C1 | C5H5N
solvent | acetic | 200 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 6-fluoro-5-(imidazol-1-yl)-1,2,3,4-tetrahydro-2-methylquinoline | FC=1C(=C2CCC(NC2=CC1)C)N1C=NC=C1 | C13H14FN3
